### PR TITLE
[Merged by Bors] - feat: add results on cardinality of localization

### PR DESCRIPTION
**Pull request by acmepjz**
- `OreLocalization.oreDiv_one_surjective_of_finite_(left|right)`: if `S` or `X` is finite, then the natural map `X → X[S⁻¹]` is surjective
- `OreLocalization.numeratorHom_surjective_of_finite`: if `S` is finite, then the natural map `R → R[S⁻¹]` is surjective
- `OreLocalization.cardinalMk_le_max`: `#X[S⁻¹] ≤ max(#S, #X)`
- `OreLocalization.cardinalMk_le`: `#R[S⁻¹] ≤ #R`
- `OreLocalization.cardinalMk_le_lift_cardinalMk_of_commute`: if `S` is commutative, then `#X[S⁻¹] ≤ #X` (I don't know how to remove the commutative assumption)
- `OreLocalization.cardinalMk`: if `S` has no zero divisors, then `#R[S⁻¹] = #R`

Also the `[lift_]cardinalMk_le` and `[lift_]cardinalMk` for `Localization`, `IsLocalization`, `FractionRing` and `IsFractionRing`.

Also change the direction of the conclusion of the existing `IsLocalization.card` (renamed to `IsLocalization.cardinalMk`) to match the docstring in file header. It is not directly used in any other files.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

Discussion: https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Localization.2Ecard_le/near/477424118

### CODE REVIEW

**Comment by acmepjz** [comment]
I notice that PR #18364 added `Cardinal.mk_fractionRing` which is the same as `FractionRing.card` in this PR.

File: Mathlib/GroupTheory/OreLocalization/Cardinality.lean [hunk 1]
```diff
@@ -0,0 +1,107 @@
...
+    rw [← mul_smul, ← pow_add, Nat.add_sub_cancel' hlt, heq]
+  · simp_rw [SubmonoidClass.coe_pow, OneMemClass.coe_one, mul_one, pow_succ]
+
+@[to_additive]
+theorem numeratorHom_surj_of_finite [Finite S] :
+    Function.Surjective (numeratorHom (S := S)) :=
+  oreDiv_one_surj_of_finite_left S R
+
+@[to_additive]
+theorem card_le_max : #(OreLocalization S X) ≤ max (lift.{v} #S) (lift.{u} #X) := by
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/OreLocalization/Cardinality.lean:60]: Elsewhere I think the convention is to call this `Cardinal.mk_oreLocalization_le`.
If we really want to use `card` for this, we should rename `Cardinal.mk` to `Cardinal.card`, which is certainly out of scope for this PR.

Comment (acmepjz) [reply Mathlib/GroupTheory/OreLocalization/Cardinality.lean:60]: Since it's the property of `OreLocalization`, I don't think it's a good idea to put it into namespace `Cardinal`.

The `IsLocalization.card_le` and `IsLocalization.card` is the existing result in mathlib which already uses this naming.
But perhaps you're right, the other results use different naming, for example [Polynomial.cardinal_mk_eq_max](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Cardinal.html#Polynomial.cardinal_mk_eq_max).
Perhaps we should call `OreLocalization.cardinal_mk_le_max`, etc.? But I'd argue that `card` is an abbreviation of `cardinal_mk`.

Comment (YaelDillies) [reply Mathlib/GroupTheory/OreLocalization/Cardinality.lean]: Yeah, I find the comb `Finset.card`, `Fintype.card`, `IsLocalization.card` pretty poor. `IsLocalization.card_eq` could work, but really the function is called `Cardinal.mk` so `cardinalMk` is what you should use

Comment (YaelDillies) [reply Mathlib/GroupTheory/OreLocalization/Cardinality.lean]: > `Finset.card` and `Fintype.card` are already functions, so I think they don't matter

I meant that their existence means that `IsLocalization.card` sounds like it should be a function

Comment (acmepjz) [reply Mathlib/GroupTheory/OreLocalization/Cardinality.lean]: Is current naming (`cardinal_mk_XXX`) OK?

Comment (YaelDillies) [reply Mathlib/GroupTheory/OreLocalization/Cardinality.lean]: It's "ok" but the convention-approved name is `cardinalMk` 😄

Comment (acmepjz) [reply Mathlib/GroupTheory/OreLocalization/Cardinality.lean]: > It's "ok" but the convention-approved name is `cardinalMk` 😄

Currently mathlib has no results named `cardinalMk` yet; all of them uses `cardinal_mk`. So I think it's OK to use `cardinal_mk` in this PR. Perhaps rename all of them to `cardinalMk` is for another PR.

Comment (YaelDillies) [reply Mathlib/GroupTheory/OreLocalization/Cardinality.lean]: I've opened #18808

File: Mathlib/GroupTheory/OreLocalization/Cardinality.lean [hunk 2]
```diff
@@ -0,0 +1,112 @@
...
+
+open Cardinal
+
+namespace OreLocalization
+
+variable {R : Type u} [Monoid R] (S : Submonoid R) [OreLocalization.OreSet S]
+  (X : Type v) [MulAction R X]
+
+@[to_additive]
+theorem oreDiv_one_surj_of_finite_left [Finite S] :
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/OreLocalization/Cardinality.lean:32]:
```suggestion
theorem oreDiv_one_surjective_of_finite_left [Finite S] :
```

File: Mathlib/GroupTheory/OreLocalization/Cardinality.lean [hunk 3]
```diff
@@ -0,0 +1,112 @@
...
+  · exact this j i hne.symm heq.symm (hne.lt_of_le (not_lt.1 hlt))
+  use s ^ (i - (j + 1)) • x
+  rw [oreDiv_eq_iff]
+  refine ⟨s ^ j, (s ^ (j + 1)).1, ?_, ?_⟩
+  · change s ^ j • x = s ^ (j + 1) • s ^ (i - (j + 1)) • x
+    rw [← mul_smul, ← pow_add, Nat.add_sub_cancel' hlt, heq]
+  · simp_rw [SubmonoidClass.coe_pow, OneMemClass.coe_one, mul_one, pow_succ]
+
+@[to_additive]
+theorem oreDiv_one_surj_of_finite_right [Finite X] :
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/OreLocalization/Cardinality.lean:46]:
```suggestion
theorem oreDiv_one_surjective_of_finite_right [Finite X] :
```

File: Mathlib/GroupTheory/OreLocalization/Cardinality.lean [hunk 4]
```diff
@@ -0,0 +1,112 @@
...
+  · exact this j i hne.symm heq.symm (hne.lt_of_le (not_lt.1 hlt))
+  use s ^ (i - (j + 1)) • x
+  rw [oreDiv_eq_iff]
+  refine ⟨s ^ j, (s ^ (j + 1)).1, ?_, ?_⟩
+  · change s ^ j • x = s ^ (j + 1) • s ^ (i - (j + 1)) • x
+    rw [← mul_smul, ← pow_add, Nat.add_sub_cancel' hlt, heq]
+  · simp_rw [SubmonoidClass.coe_pow, OneMemClass.coe_one, mul_one, pow_succ]
+
+@[to_additive]
+theorem numeratorHom_surj_of_finite [Finite S] :
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/OreLocalization/Cardinality.lean:60]:
```suggestion
theorem numeratorHom_surjective_of_finite [Finite S] :
```

File: Mathlib/GroupTheory/OreLocalization/Cardinality.lean [hunk 5]
```diff
@@ -0,0 +1,112 @@
...
+## TODO
+
+- Prove or disprove `OreLocalization.cardinal_mk_le_lift_cardinal_mk_of_commute`
+  with `Commute` assumption removed.
+
+-/
+
+universe u v
+
+open Cardinal
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/OreLocalization/Cardinality.lean:24]: Maybe 
```suggestion
open Cardinal Function
```
to avoid writing `Function.Surjective` everywhere?

File: Mathlib/RingTheory/OreLocalization/Cardinality.lean [hunk 6]
```diff
@@ -0,0 +1,28 @@
...
+-/
+import Mathlib.RingTheory.OreLocalization.Ring
+import Mathlib.GroupTheory.OreLocalization.Cardinality
+
+/-!
+
+# Cardinality of Ore localizations of rings
+
+This file contains some results on cardinality of Ore localizations of rings.
+
```
Comment (YaelDillies) [inline Mathlib/RingTheory/OreLocalization/Cardinality.lean:14]: Not a hard rule, but we usually do
```suggestion
# Cardinality of Ore localizations of rings

This file contains some results on cardinality of Ore localizations of rings.
```

File: Mathlib/RingTheory/OreLocalization/Cardinality.lean [hunk 7]
```diff
@@ -0,0 +1,28 @@
+/-
+Copyright (c) 2024 Jz Pan. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jz Pan
+-/
+import Mathlib.RingTheory.OreLocalization.Ring
+import Mathlib.GroupTheory.OreLocalization.Cardinality
```
Comment (YaelDillies) [inline Mathlib/RingTheory/OreLocalization/Cardinality.lean:7]: Can you keep imports alphabetical?
```suggestion
import Mathlib.GroupTheory.OreLocalization.Cardinality
import Mathlib.RingTheory.OreLocalization.Ring
```

File: Mathlib/RingTheory/Localization/Cardinality.lean [hunk 8]
```diff
@@ -27,31 +28,84 @@ open Cardinal nonZeroDivisors
...
-  IsLocalization.card (FractionRing R) R⁰ le_rfl |>.symm
+  IsLocalization.cardinal_mk (FractionRing R) R⁰ le_rfl
+
+namespace FractionRing
+
+variable (R)
+
+alias cardinal_mk := Cardinal.mk_fractionRing
+
+end FractionRing
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Localization/Cardinality.lean:97]: This is functionally equivalent to
```suggestion
alias FractionRing.cardinal_mk := Cardinal.mk_fractionRing
```

File: Mathlib/GroupTheory/OreLocalization/Cardinality.lean (hunk 5 above)
Comment (acmepjz) [reply Mathlib/GroupTheory/OreLocalization/Cardinality.lean:24]: Sure.

File: Mathlib/RingTheory/OreLocalization/Cardinality.lean (hunk 7 above)
Comment (acmepjz) [reply Mathlib/RingTheory/OreLocalization/Cardinality.lean:7]: Sorry.

File: Mathlib/GroupTheory/OreLocalization/Cardinality.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/GroupTheory/OreLocalization/Cardinality.lean]: Done.

**Review by YaelDillies — APPROVED** [review]
Thanks! Please don't forget to update the PR description using the new lemma names.

maintainer delegate

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
